US07163939B2
2-(allyloxy)-5-chloroaniline
A mixture of 2-amino-4-chlorophenol (10 g, 69.65 mmol) and K2CO3 (14.53 g, 105 mmol) in acetone (160 mL) was treated with allyl bromide (9.03 mL, 104 mmol), stirred at room temperature overnight, and filtered. The filter cake was washed with acetone and the combined filtrates were concentrated. The residue was purified by flash column chromatography eluting with hexanes/ethyl acetate (10:1) to provide 8.31 g (65%) of the desired product. MS (DCI/NH3) m/z 184.02 (M+H)+; 1H NMR (500 MHz, DMSO-d6) δ 4.51 (m, 2H), 5.02 (s, 2H), 5.24 (dd, J=10.53, 1.68 Hz, 1H), 5.42 (m, 1H), 6.04 (m, 1H), 6.47 (dd, J=8.54, 2.44 Hz, 1H), 6.66 (d, J=2.75 Hz, 1H), 6.75 (d, J=8.54 Hz, 1H).

reactant | 2-amino-4-chlorophenol | 69.65 mmol, 10 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | K2CO3 | 105 mmol, 14.53 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 104 mmol, 9.03 mL | C(C=C)Br | C3H5Br
solvent | acetone | 160 mL | CC(=O)C | C3H6O
product | 2-(allyloxy)-5-chloroaniline | 8.31 g, 65% | C(C=C)OC1=C(N)C=C(C=C1)Cl | C9H10ClNO
